2166-03-26 09:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see Dr.[**Name (NI) 1823**] blue note in the chart for admission details.
   24 Hour Events:
   Continued hemodynamic resuscitation
   CTA showing right hilar mass and possible PE
   Ventilator adjustments with ARDSnet settings.
 ARTERIAL LINE - START [**2166-3-25**] 10:05 PM
 MULTI LUMEN - START [**2166-3-25**] 10:06 PM
 BLOOD CULTURED - At [**2166-3-25**] 11:53 PM
 INVASIVE VENTILATION - START [**2166-3-25**] 11:53 PM
 BLOOD CULTURED - At [**2166-3-26**] 06:14 AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-25**] 07:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-3-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 1.8 mcg/Kg/min
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.36 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-3-26**] 08:00 AM
   Other medications:
   vanco, levoflox, zosyn, H2B, heparin infusion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-26**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 104 (102 - 116) bpm
   BP: 80/57(66) {77/44(55) - 132/73(91)} mmHg
   RR: 33 (25 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 15 (-3 - 17)mmHg
   SvO2: 68%
   Mixed Venous O2% Sat: 56 - 61
   Total In:
                                                                 10,366 mL
                                                                  1,551 mL
   PO:
   TF:
   IVF:
                                                                  5,866 mL
                                                                  1,551 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    415 mL
   Urine:
                                                                    870 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,496 mL
                                                                  1,136 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.15/50/86/18/-11
   Ve: 12.6 L/min
   PaO2 / FiO2: 86
   Physical Examination
   General Appearance: Thin, temporal wasting
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm centrally, cool peripherally
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   11.7 g/dL
   379 K/uL
   159 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.9 mEq/L
   17 mg/dL
   118 mEq/L
   145 mEq/L
   38.2 %
   29.0 K/uL
        [image002.jpg]
                             [**2166-3-25**]  07:32 PM
                             [**2166-3-25**]  09:09 PM
                             [**2166-3-25**]  09:21 PM
                             [**2166-3-25**]  11:05 PM
                             [**2166-3-26**]  03:30 AM
                             [**2166-3-26**]  03:44 AM
                             [**2166-3-26**]  04:04 AM
                             [**2166-3-26**]  08:24 AM
   WBC
   16.1
   29.0
   Hct
   34
   35.0
   33
   38.2
   Plt
   325
   379
   Cr
   0.9
   1.2
   TCO2
   17
   17
   18
   18
   Glucose
   83
   159
   Other labs: PT / PTT / INR:18.8/70.0/1.7, ALT / AST:28/42, Alk Phos / T
   Bili:103/0.3, Amylase / Lipase:/52, Differential-Neuts:91.3 %, Band:0.0
   %, Lymph:6.9 %, Mono:1.3 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:6.9
   mg/dL, Mg++:3.0 mg/dL, PO4:3.0 mg/dL
   Imaging: CT: "4 x 5cm rt hilar neoplasm causing marked compression and
   possible invasion of the central rt bronchovascular bundle and complete
   obliteration of the bronchus intermedius.  Addtional small filling
   defect is noted within a rll segmental branch which may represent a
   small non occlusive emboli.  distal branches not evaluated due to
   motion which also obscures eval of lung parenchyma.  there is marked
   neumonia/postobstructive pneumonitis of portion of the rll and rml.
   marked bronchial wall thickening and scattred opacities with
   interstitial thickening which are likley infectious but can not
   exclude lymphangitic spread of tumor.  small b/l effusions with lt
   compression
   atelectasis.  severe emphysema.  Thyroid nodules.  probable b/l adrenal
   masses, not fully evaluated.
   Assessment and Plan
   87 y/o man with septic shock, acute respiratory failure, and high
   likelihood of new diagnosis of pulmonary malignancy.
   Respiratory failure
          It is not exactly clear what his parenchymal opacities
   represent.  He may have ARDS, community/nursing-home-acquired
   pneumonia, lymphangitic spread of tumor, or reactivation of
   tuberculosis (given right apical findings, foreign-born status,
   cachexia,
treatment-resistant
 pneumonia, and possible new relative
   immunosuppression from malignancy.
          Ventilation per ARDSnet strategy, although this is
   complicated by his emphysema.  At present, he has some dyssynchrony
   with the ventialtor and we will pursue additional sedation and try to
   match applied PEEP to instrinsic PEEP.  Remove extension tubing to
   decrease dead space.
   Pneumonia
          Although not clear that this is bacterial pneumonia, we will
   treat broadly for nursing-home-acquired pneumonia.
          Respiratory isolation and endotracheal aspirates for AFB x
   3.
   Possible malignancy
          Unable to safely bronch at present
 will check endotracheal
   aspirate for cytology
   Septic Shock
          Goal-directed therapy, but adjust CVP goal to ~15.  Use LR
   for resusctitive fluuid
          Measure noninvasive cardiac parameters with Vigileo.  If low
   CO, dobutamine
          Doesn
t meet criteria for steroids
          Would not pursue activated protein C while he is on heparin.
   Acidosis
          Mixed nongap metabolic and respiratory
 management as
   detailed above, including LR for further fluids
   Possible pulmonary embolism
          I doubt that the CT findings represent a PE as the major
   etiology of his respiratory failure.  Check LENIs and if no clot d/c
   heparin.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2166-3-25**] 10:05 PM
   Multi Lumen - [**2166-3-25**] 10:06 PM
   18 Gauge - [**2166-3-25**] 10:07 PM
   20 Gauge - [**2166-3-25**] 10:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Discussed with daughter
   [**Name (NI) 66**] status: Full code
   Disposition : ICU
   Total time spent:  45 min

2166-03-26 11:09:00 Physician Resident Progress Note
Chief Complaint: shock
   24 Hour Events:
 ARTERIAL LINE - START [**2166-3-25**] 10:05 PM
 MULTI LUMEN - START [**2166-3-25**] 10:06 PM
 BLOOD CULTURED - At [**2166-3-25**] 11:53 PM
 INVASIVE VENTILATION - START [**2166-3-25**] 11:53 PM
 BLOOD CULTURED - At [**2166-3-26**] 06:14 AM
   Pressors titrated up
   Vent settings adjusted -> tidal volume decreased
   CTA performed
   IV heparin gtts started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-25**] 07:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-3-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 75 mcg/hour
   Phenylephrine - 1 mcg/Kg/min
   Heparin Sodium - 1,150 units/hour
   Norepinephrine - 0.36 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-3-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-26**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 95 (95 - 116) bpm
   BP: 94/67(78) {77/44(55) - 132/73(91)} mmHg
   RR: 32 (25 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 12 (-3 - 17)mmHg
   SvO2: 71%
   Mixed Venous O2% Sat: 56 - 61
   Total In:
                                                                 10,366 mL
                                                                  3,254 mL
   PO:
   TF:
   IVF:
                                                                  5,866 mL
                                                                  3,254 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                    450 mL
   Urine:
                                                                    870 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,496 mL
                                                                  2,804 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.15/50/86/18/-11
   Ve: 12.6 L/min
   PaO2 / FiO2: 86
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : ), transmmitted mech vent
   sounds
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , hypoactive BS
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Cool, mottled extremeties
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   379 K/uL
   11.7 g/dL
   159 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.9 mEq/L
   17 mg/dL
   118 mEq/L
   145 mEq/L
   38.2 %
   29.0 K/uL
        [image002.jpg]
                             [**2166-3-25**]  07:32 PM
                             [**2166-3-25**]  09:09 PM
                             [**2166-3-25**]  09:21 PM
                             [**2166-3-25**]  11:05 PM
                             [**2166-3-26**]  03:30 AM
                             [**2166-3-26**]  03:44 AM
                             [**2166-3-26**]  04:04 AM
                             [**2166-3-26**]  08:24 AM
   WBC
   16.1
   29.0
   Hct
   34
   35.0
   33
   38.2
   Plt
   325
   379
   Cr
   0.9
   1.2
   TCO2
   17
   17
   18
   18
   Glucose
   83
   159
   Other labs: PT / PTT / INR:18.8/70.0/1.7, ALT / AST:28/42, Alk Phos / T
   Bili:103/0.3, Amylase / Lipase:/52, Differential-Neuts:91.3 %, Band:0.0
   %, Lymph:6.9 %, Mono:1.3 %, Eos:0.2 %, Lactic Acid:1.7 mmol/L, Ca++:6.9
   mg/dL, Mg++:3.0 mg/dL, PO4:3.0 mg/dL
   Imaging: CTA WET READ
   4 x 5cm rt hilar neoplasm causing marked compression and possible
   invasion of
   the central rt bronchovascular bundle and complete obliteration of the
   bronchus intermedius.  Addtional small filling defect is noted within a
   rll
   segmental branch which may represent a small non occlusive emboli.
   distal
   branches not evaluated due to motion which also obscures eval of lung
   parenchyma.  there is marked pneumonia/postobstructive pneumonitis of
   portion
   of the rll and rml.  marked bronchial wall thickening and scattred
   opacities
   with interstitial thickening which are likley infectious but can not
   exclude lymphangitic spread of tumor.  small b/l effusions with lt
   compression
   atelectasis.  severe emphysema.  Thyroid nodules.  probable b/l adrenal
   masses, not fully evaluated.
   Assessment and Plan
   87 yo male w/ HTN, dementia, past prostate CA presents w/ shock and
   hypoxemic respiratory failure
   # Res Failure
   DDx: Lung collapse w/ hilar mass, post obstructive pna, non obstructive
   infection including TB, pseudomonas, MRSA, ARDS.
   Oxygenation impaired, w/ wide a-a gradient.  Co2 increasing, w/
   acidosis (but prob driven by metabolic dysfunction primarily).  Will
   work to; 1) increase sedation 2) match PEEP to auto PEEP 3) d/c
   extention tube (resistance).
   Small sub-segmental PE as well, though likely not contributing greatly
   to hypoxemia.  Will d/c heparin gtts given possibility of converting
   potential PA infiltration into endobronchial bleed.  Will check lenis.
   # SHOCK
   Likely sepsis, from post pneumonia (post vs non post obstructive).
   Lactate stable.  Cont goal directed therapy w/ broad spectrum
   antibiotics.  Increase CVP goal to 14-16 given PEEP.  W/ acidosis,
   using LR currently.  Will focus pressors on norepi + vasopressin.  Will
   also consider trial of dobutamine if decreased CO.  Will assess whether
   candidate for activated protein C; concern for intracranial bleeding w/
   unknown brain mets?
   - will also assess TTE to r/o cardiac cause of hypotension
   # ID
   Likely pulmonary source to sepsis.
   F/u culture data.
   Also concern for TB given hx of growing up in [**Country **], immunocompromise,
   granulomatous findings on Chest CT.
   -          cont empiric antibiotics w/ vanco / zosyn / levo.
   -          Gram stain sputum, if negative, will ask ID to comment on
   empiric TB treatment plaan
   -          Endotracheal aspirate for TB x 3
   # Acid / Base status
   Resp acidosis w/ non gap metabolic acidosis, likely due to
   hyperchloremic met ac from liters of NS.
   Will convert resuscitation to LR and follow panel, abgs
   # ARF
   Resolved w/ IVFs
   Cont to trend, likely was pre-renal.
   ICU Care
   Nutrition: npo d 2
   Glycemic Control:  will convert to insulin gtts for improved control
   Lines:
   Arterial Line - [**2166-3-25**] 10:05 PM
   Multi Lumen - [**2166-3-25**] 10:06 PM
   18 Gauge - [**2166-3-25**] 10:07 PM
   20 Gauge - [**2166-3-25**] 10:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition: goals care discussion planned today

2166-03-27 11:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure and shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Flu (+)
   Sputum with GPCs
   FiO2 weaned to 0.7; PEEP to 10
   Echo with EF > 55%, limited study
   Remains on two pressors
   Dobutamine trial --> increased CO but decreased MAP
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-3-25**] 07:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-3-27**] 08:21 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 5 mg/hour
   Heparin Sodium - 750 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2166-3-27**] 08:21 AM
   Other medications:
   per [**Month (only) **] and
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-3-27**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.8
   HR: 108 (94 - 108) bpm
   BP: 101/53(69) {76/45(55) - 112/71(84)} mmHg
   RR: 30 (28 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
   CVP: 16 (11 - 16)mmHg
   CO/CI (Fick): (5.7 L/min) / (3.4 L/min/m2)
   CO/CI (CCO): (4.7 L/min) / (2.8 L/min/m2)
   SvO2: 68%
   Total In:
                                                                  7,428 mL
                                                                  3,255 mL
   PO:
   TF:
   IVF:
                                                                  7,428 mL
                                                                  3,255 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                  1,280 mL
   Urine:
                                                                  1,185 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,243 mL
                                                                  1,975 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 31
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.34/36/101/16/-5
   Ve: 11.9 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   331 K/uL
   104 mg/dL
   1.4 mg/dL
   16 mEq/L
   4.8 mEq/L
   15 mg/dL
   111 mEq/L
   135 mEq/L
   30.8 %
   22.4 K/uL
        [image002.jpg]
                             [**2166-3-26**]  03:30 AM
                             [**2166-3-26**]  03:44 AM
                             [**2166-3-26**]  04:04 AM
                             [**2166-3-26**]  08:24 AM
                             [**2166-3-26**]  11:26 AM
                             [**2166-3-26**]  04:26 PM
                             [**2166-3-26**]  09:46 PM
                             [**2166-3-27**]  06:28 AM
                             [**2166-3-27**]  06:37 AM
                             [**2166-3-27**]  10:16 AM
   WBC
   29.0
   22.4
   Hct
   33
   38.2
   30.8
   Plt
   379
   331
   Cr
   1.2
   1.4
   TCO2
   18
   18
   16
   17
   17
   18
   20
   Glucose
   159
   104
   Other labs: PT / PTT / INR:18.3/150.0/1.7, ALT / AST:28/42, Alk Phos /
   T Bili:103/0.3, Amylase / Lipase:/52, Differential-Neuts:91.3 %,
   Band:0.0 %, Lymph:6.9 %, Mono:1.3 %, Eos:0.2 %, Lactic Acid:2.4 mmol/L,
   Ca++:6.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: LENI(-)
   CXR: worsening bibasilar infiltrates and effusions; right hilar mass
   persists; ETT in place
   Assessment and Plan
   87 y/o man with septic shock, acute respiratory failure, and high
   likelihood of new diagnosis of pulmonary malignancy.
   Respiratory failure
          Likely secondary to influenza, possibly with bacterial
   superinfection
          Vancomycin, Zosyn, azithro until cx back
          Ventilation per ARDSnet strategy, although this is
   complicated by his emphysema.  More synchronous today, and oxygenation
   improving.
          Complete MTB rule-out, although much less likely given (+)
   flu findings
   Possible malignancy
          Unable to safely bronch at present
          When FiO2 down a bit further, consider further investigation
   Septic Shock
          Goal-directed therapy, but adjust CVP goal to ~15.  Use LR
   for resusctitive fluuid
          Measure noninvasive cardiac parameters with Vigileo.
          Doesn
t meet criteria for steroids
          Would not pursue activated protein C given the abutment of
   his tumor with his airway
   Possible pulmonary embolism
          Given negative LENIs and re-read of CT, d/c IV heparin
   ICU Care
   Nutrition: Start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2166-3-25**] 10:05 PM
   Multi Lumen - [**2166-3-25**] 10:06 PM
   18 Gauge - [**2166-3-25**] 10:07 PM
   20 Gauge - [**2166-3-25**] 10:08 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt, D/C IV heparin and
   start SQH)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill